US07074819B2
Step 6) Synthesis of (3RS,4SR)-4-{4-{2-{4-{[3,5-bis(t-butyl)phenyl)methyl]piperazinyl}ethoxy}phenyl}-7-(methoxymethoxy)-3-[4-(methoxymethoxy)phenyl]-3-methylchroman
(3RS,4SR)-4-[4-(2-Chloroethoxy)phenyl]-7-(methoxymethoxy)-3-[4-(methoxymethoxy)phenyl]-3-methylchroman (210 mg, 0.42 mmol) and {(3,5-bis(t-butyl)phenyl]methyl}piperazine (243 mg, 0.84 mmol) were dissolved in a solvent mixture of acetone (4 ml) and DMF (0.4 ml). To the mixture potassium carbonate (116 mg, 0.84 mmol) and tetrabutylammonium iodide (16 mg, 0.04 mmol) added were, and the mixture was stirred while heated under reflux for 3 days. The reaction solution was extracted with ethyl acetate, dried over sodium sulfate, and filtered. The filtrate was evaporated under reduced pressure, and the concentrate thus obtained was subjected to silica gel column chromatography (n-hexane:ethyl acetate=4:1) to give 160 mg (yield: 51%) of a white foamy solid.

reactant | (3RS,4SR)-4-[4-(2-Chloroethoxy)phenyl]-7-(methoxymethoxy)-3-[4-(methoxymethoxy)phenyl]-3-methylchroman | 0.42 mmol, 210 mg | ClCCOC1=CC=C(C=C1)C1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C28H31ClO6
reactant | {(3,5-bis(t-butyl)phenyl]methyl}piperazine | 0.84 mmol, 243 mg | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)CN1CCNCC1 | C19H32N2
reactant | potassium carbonate | 0.84 mmol, 116 mg | C([O-])([O-])=O.[K+].[K+]
reactant | n-hexane | CCCCCC | C6H14
solvent | acetone | 4 ml | CC(=O)C | C3H6O
solvent | DMF | 0.4 ml | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 0.04 mmol, 16 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3RS,4SR)-4-{4-{2-{4-{[3,5-bis(t-butyl)phenyl)methyl]piperazinyl}ethoxy}phenyl}-7-(methoxymethoxy)-3-[4-(methoxymethoxy)phenyl]-3-methylchroman | 160 mg, yield: 51% | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)CN1CCN(CC1)CCOC1=CC=C(C=C1)C1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C47H62N2O6
